Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
allopurinol / colchicine / Phenothiazines / chlorpromazine
 
Attending: ___.
 
Major Surgical or Invasive Procedure:
- Cardiac catheterization, including coronary angiogram and PCI 
w/ DES to LAD

attach
 
Pertinent Results:
ADMISSION LABS:
===============
___ 11:57PM BLOOD WBC-11.0* RBC-4.70 Hgb-13.5* Hct-40.6 
MCV-86 MCH-28.7 MCHC-33.3 RDW-13.2 RDWSD-42.2 Plt ___
___ 11:57PM BLOOD Neuts-31.0* Lymphs-55.2* Monos-8.8 
Eos-3.7 Baso-1.0 Im ___ AbsNeut-3.40 AbsLymp-6.06* 
AbsMono-0.96* AbsEos-0.41 AbsBaso-0.11*
___ 11:57PM BLOOD Plt ___
___ 11:57PM BLOOD ___ PTT-24.7* ___
___ 11:57PM BLOOD Glucose-139* UreaN-15 Creat-1.2 Na-140 
K-5.6* Cl-108 HCO3-20* AnGap-12
___ 11:57PM BLOOD Lipase-24
___ 11:57PM BLOOD cTropnT-<0.01
___ 11:57PM BLOOD CK-MB-1
___ 11:57PM BLOOD Albumin-4.0 Calcium-8.5 Phos-4.3 Mg-2.2
___ 12:19AM BLOOD ___ pO2-102 pCO2-35 pH-7.41 
calTCO2-23 Base XS--1
___ 12:19AM BLOOD Lactate-2.9*
___ 04:23AM BLOOD Lactate-2.1* K-4.1
___ 12:19AM BLOOD O2 Sat-95

REPORTS:
========
CHEST XR ___:
IMPRESSION: 
No acute cardiopulmonary abnormality.

CTA CHEST ___:
FINDINGS: 
HEART AND VASCULATURE: Pulmonary vasculature is well opacified 
to the
segmental level without filling defect to indicate a pulmonary 
embolus.  The
thoracic aorta is normal in caliber without evidence of 
dissection or
intramural hematoma.  Moderate atherosclerotic calcifications 
are seen within
the coronary arteries.  The heart, pericardium, and great 
vessels are within
normal limits. No pericardial effusion is seen.
AXILLA, HILA, AND MEDIASTINUM: No axillary, mediastinal, or 
hilar
lymphadenopathy is present.  No mediastinal mass.
PLEURAL SPACES: No pleural effusion or pneumothorax.
LUNGS/AIRWAYS: Lungs are clear without masses or areas of 
parenchymal
opacification.  There is bilateral dependent atelectasis.  The 
airways are
patent to the level of the segmental bronchi bilaterally.
BASE OF NECK: Visualized portions of the base of the neck show 
no abnormality.
ABDOMEN: There is a 1.2 cm rounded hypodensity within the right 
lobe of the
liver, incompletely evaluated on current exam, but likely 
represent a hepatic
cyst or biliary hamartoma.
BONES: No suspicious osseous abnormality is seen.? There is no 
acute fracture.
IMPRESSION:
1. No evidence of pulmonary embolism to the segmental level or 
acute aortic
abnormality.
2. Moderate atherosclerotic calcifications within the coronary 
arteries.
3. 1.2 cm rounded hypodensity within the liver, which likely 
represents a
hepatic cyst or biliary hamartoma.

CARDIAC CATH ___:
Coronary Description The coronary circulation is right dominant. 
LM:The Left Main, arising from the left cusp, is a medium 
caliber vessel. This vessel bifurcates into the Left Anterior 
Descending and Left Circumflex systems. LAD:The Left Anterior 
Descending artery, which arises from the LM, is a medium caliber 
vessel. There is severe calcification in the proximal segment. 
There is an 80% stenosis in the mid segment beginning after a 
large diagonal branch. There is a 99% stenosis in the mid 
segment. Cx:The Circumflex artery, which arises from the LM, is 
a small to medium sized vessel. There is a 50% stenosis in the 
proximal segment. The ___ Obtuse Marginal, arising from the 
proximal segment, is a small caliber vessel. RCA:The Right 
Coronary Artery, arising from the right cusp, is a large caliber 
vessel. There is calcification and irregularities but no 
significant stenosis
Interventional Details Percutaneous Coronary Intervention: 
Percutaneous coronary intervention (PCI) was performed on an ad 
hoc basis based on the coronary angiographic findings from the 
diagnostic portion of this procedure. A 6 ___ EBU3.5 guide 
provided adequate support. Crossed with a Pilot 50 wire into the 
distal LAD after failure of Scion Blue and Prowater and with 
support of a Caravelle micro catheter. The area of occlusion was 
noted to be dissected. Predilated with a 2.0 mm and then 2.25 x 
15 NC balloon. A 6.0 ___ Guideliner was positioned in th 
proximal LAD over 2.25 balloon and we then deployed a 2.25 mm x 
28 mm DES. Postdilated with a 2.5 mm NC balloon. Final 
angiography revealed normal flow, no dissection and 0% residual 
stenosis. The stent was positionied just at the diagonal origina 
dnthere was noted plaque shift with 50% stenosis of the 
diagonal. Given large vessel size and normal flow we opted not 
to treat the large sidebranch. 
Complications There were no clinically significant 
complications. 
Findings
• Two vessel coronary artery disease. • Successful PCI with 
drug-eluting stent of the LAD coronary artery. Recommendations
• ASA 81mg per day. • Secondary prevention of CAD • Ticagrelor 
90 mg BID

TTE ___:
CONCLUSION: The left atrial volume index is normal. There is no 
evidence for an atrial septal defect by 2D/color Doppler. The 
inferior vena cava diameter is normal. There is normal left 
ventricular wall thickness with a normal cavity size.There is a 
small to moderate area of regional left ventricular systolic 
dysfunction with severe hypokinesis of the distal half of the 
anterior septum and distal anterior and inferior walls with 
apical akinesis (see schematic) and preserved/normal 
contractility of the remaining segments. Quantitative biplane 
left ventricular ejection fraction is 46 % (normal 54-73%). Left 
ventricular cardiac index is low normal (2.0-2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. Tricuspid annular plane systolic excursion (TAPSE) is 
normal. The aortic sinus diameter is normal for gender with a 
normal ascending aorta diameter for gender. The aortic arch 
diameter is normal with a normal descending aorta diameter. 
There is no evidence for an aortic arch coarctation. The aortic 
valve leaflets (3) are mildly thickened. There is no aortic 
valve stenosis. There is trace aortic regurgitation. The mitral 
valve leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The pulmonic 
valve leaflets are normal. The tricuspid valve leaflets appear 
structurally normal. There is mild [1+] tricuspid regurgitation. 
The estimated pulmonary artery systolic pressure is high normal. 
There is no pericardial effusion. 
IMPRESSION: Normal left ventricular cavity size with mild 
regional systolic dysfunction most consistent with single vessel 
coronary artery disease (mid-distal LAD distribution). High 
normal estimated pulmonary artery systolic pressure. No prior 
study available for comparison.

DISCHARGE LABS:
===============
___ 08:08AM BLOOD WBC-8.4 RBC-4.57* Hgb-13.1* Hct-39.9* 
MCV-87 MCH-28.7 MCHC-32.8 RDW-13.9 RDWSD-44.6 Plt ___
___ 08:08AM BLOOD Plt ___
___ 08:08AM BLOOD ___ PTT-28.5 ___
___ 08:08AM BLOOD Glucose-161* UreaN-13 Creat-0.9 Na-141 
K-3.9 Cl-107 HCO3-21* AnGap-13
___ 08:08AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.1
 
Brief Hospital Course:
SUMMARY STATEMENT:
==================
Mr. ___ is a ___ man with HTN, HLD, and known aortic root 
dilation who presented with substernal chest pain, subsequently 
found to have an NSTEMI. He underwent cardiac catheterization 
with coronary angiogram that demonstrated 99% occlusion of LAD. 
He received ad hoc PCI with DES to the LAD, complicated by 
plaque shift resulting in 50% diagonal branch lesion.  

ACTIVE ISSUES:
==============
# NSTEMI:
Patient presenting with acute onset substernal chest pain with 
associated diaphoresis. Code STEMI was initially called, however 
this was cancelled based on ECG in the ED - noted to have aortic 
dilation and as such obtained a CTA which did not show evidence 
of aortic dissection. Initial Troponin <0.01 with CKMB 1, 
however on repeat Troponin was 0.16. As such, s/p Plavix load 
300mg x1 as well as Enoxaparin x1 in the ED. Cardiac 
catheterization revealed 99% stenosis of mid-segment LAD s/p PCI 
with DES x1. There was an intra-procedural plaque shift 
resulting in a 50% diagonal branch lesion. Plavix was switched 
to Ticagrelor, per Interventional Cardiology, and ASA was added 
for DAPT. He was also started on lisinopril; home diltiazem was 
switched to metoprolol. Patient has failed statin trials in the 
past due to adverse side effects. He was started on atorvastatin 
in the short-term for plaque stabilization. Extensive 
conversations were had regarding initiation of PSCK-9 inhibitor, 
however patient unsure about starting the medication. On the day 
of discharge patient was asymptomatic. He underwent TTE on ___ 
that demonstrated LVEF 46% and regional systolic dysfunction in 
LAD region. 

CHRONIC ISSUES:
===============
# HTN: 
Patient was initially on diltiazem and was switched to 
metoprolol and lisinopril given ACS.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
further investigation.
1. Diltiazem Extended-Release 240 mg PO DAILY 
2. fluorouracil 0.5 % topical DAILY 
3. Ibuprofen 800 mg PO Q8H:PRN Pain - Mild 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Aspir-81] 81 mg 1 tablet(s) by mouth once a day 
Disp #*30 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 
4.  Metoprolol Succinate XL 12.5 mg PO DAILY 
RX *metoprolol succinate 25 mg 0.5 (One half) tablet(s) by mouth 
once a day Disp #*30 Tablet Refills:*0 
5.  TiCAGRELOR 90 mg PO BID to prevent stent thrombosis 
RX *ticagrelor [Brilinta] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0 
6.  fluorouracil 0.5 % topical DAILY  
7.  Ibuprofen 800 mg PO Q8H:PRN Pain - Mild  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIAMRY DIAGNOSIS:
==================
- Non ST-segment Elevation Myocardial Infarction

SECONDARY DIAGNOSIS:
====================
- Hypertension
- Dyslipidemia
- Coronary artery disease

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
It was a pleasure taking care of you at ___ 
___.  
 
WHY WAS I ADMITTED TO THE HOSPITAL?  
- You were admitted to the hospital because you had chest pain 
that was found to be a heart attack

WHAT HAPPENED WHILE I WAS IN THE HOSPITAL?  
- You underwent a procedure called cardiac catheterization that 
allowed us to look at the blood vessels in your heart. We found 
one of them that had nearly 100% blockage. A stent was placed to 
keep the blood vessel open. 
- We started you on medications to decrease the likelihood of 
future heart attack. It will be important to take these as 
recommended and ___ with your cardiologist and PCP.

WHAT SHOULD I DO WHEN I GO HOME?  
- You should continue to take your medications as prescribed.  
- If you are experiencing new or concerning chest pain that is 
coming and going you should call the heartline at ___. 
If you are experiencing persistent chest pain that is not 
getting better with rest or nitroglycerine you should call ___.  

- You should attend the appointments listed below.  
  
We wish you the best!  
Your ___ Care Team  

 
Followup Instructions:
___